US04962119
N,N'-Carbonyldiimidazole (4.56 g, 27.6 mmol) is added to a room temperature solution of flufenamic acid (5.07 g, 18.0 mmol) in 70 ml of tetrahydrofuran. The clear yellow solution is stirred at room temperature for three hours. The solution is then added via cannula to a suspension of thiosemicarbazide (3.41 g, 37.5 mmol) in 55 ml of pyridine. The suspension is heated at reflux overnight. The clear orange solution is concentrated in vacuo and the residue is partitioned between ethyl acetate and water. The organic layer is washed with water, dried over magnesium sulfate and concentrated. The resulting solid is slurried with a 1:3 mixture of ethyl acetate and hexane. The off-white solid is collected by filtration providing 2.80 g (44%) of 2-[(3-trifluoromethylphenyl)amino]-benzoic acid, 2-(aminothioxomethyl)hydrazide.

reactant | flufenamic acid | 18.0 mmol, 5.07 g | C=1C=CC(=C(C1)C(=O)O)NC=2C=CC=C(C2)C(F)(F)F | C14H10F3NO2
reactant | thiosemicarbazide | 37.5 mmol, 3.41 g | NNC(=S)N | CH5N3S
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | pyridine | 55 ml | N1=CC=CC=C1 | C5H5N
product | 2-[(3-trifluoromethylphenyl)amino]-benzoic acid, 2-(aminothioxomethyl)hydrazide | 2.80 g, 44% | NC(NNC(C1=C(C=CC=C1)NC1=CC(=CC=C1)C(F)(F)F)=O)=S | C15H13F3N4OS
